US09398767B2
Synthesis of N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carbothioamide (example 38)
A solution of 140 mg (0.31 mmol) of phosphorus pentasulfide and 500 mg (1.26 mmol) of N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carboxamide in 20 ml of dioxane was heated at 100° C. for 2.5 hours. 2 ml of water were then added and the reaction mixture was heated at 100° C. for another 1 hour.

reactant | phosphorus pentasulfide | 0.31 mmol, 140 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carboxamide | 1.26 mmol, 500 mg | C1(CC1)N(C(=O)C=1C(=NN(C1F)C)C(F)F)CC1=C(C=CC=C1)[Si](C)(C)C | C19H24F3N3OSi
reactant | water | 2 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carbothioamide | C1(CC1)N(C(=S)C=1C(=NN(C1F)C)C(F)F)CC1=C(C=CC=C1)[Si](C)(C)C | C19H24F3N3SSi
